US08703782B2
3-[3-(4,7-Diaza-spiro[2.5]oct-7-yl)-isoquinolin-1-yl]-1-hydroxymethyl-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione
To a solution of 7-{1-[1-hydroxymethyl-4-(7-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-isoquinolin-3-yl}-4,7-diaza-spiro[2.5]octane-4-carboxylic acid tert-butyl ester (500 mg, 0.842 mmol) in 1,2-dichloroethane (5 mL) was added TFA (1.44 g, 0.973 mL, 12.7 mmol) under argon at 0° C. The reaction mixture was stirred for 1 h under argon at 0° C. after which additional TFA (0.768 g, 0.52 mL, 6.74 mmol) was added. Stirring was continued for 1.5 h at 0° C. The reaction mixture was evaporated to dryness at reduced pressure and the crude product was crystallised from MeOH to afford the title compound as a red solid (TFA salt) as a dark red solid. 1H-NMR (400 MHz, DMSO-d6): 12.01 (d, 1H), 9.06 (bs, 2H), 8.11 (d, 1H), 7.71-7.66 (m, 2H), 7.51 (t, 1H), 7.27 (s, 1H), 7.14 (t, 1H), 6.77 (d, 1H), 6.45-6.39 (m, 2H), 5.92 (d, 1H), 5.00 (d, 2H), 3.84-3.54 (m, 6H), 2.39 (s, 3H), 0.96-0.67 (m, 4H). LCMS: [M+1]+=493.7, Rt(1)=1.84 min.

reactant | 7-{1-[1-hydroxymethyl-4-(7-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-isoquinolin-3-yl}-4,7-diaza-spiro[2.5]octane-4-carboxylic acid tert-butyl ester | 0.842 mmol, 500 mg | C(C)(C)(C)OC(=O)N1C2(CC2)CN(CC1)C=1N=C(C2=CC=CC=C2C1)C=1C(N(C(C1C1=CNC2=C(C=CC=C12)C)=O)CO)=O | C34H35N5O5
reactant | TFA | 12.7 mmol, 0.973 mL, 1.44 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 6.74 mmol, 0.52 mL, 0.768 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 3-[3-(4,7-Diaza-spiro[2.5]oct-7-yl)-isoquinolin-1-yl]-1-hydroxymethyl-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | C1CC12NCCN(C2)C=2N=C(C1=CC=CC=C1C2)C=2C(N(C(C2C2=CNC1=C(C=CC=C21)C)=O)CO)=O | C29H27N5O3
